US05051422
1-(3-Aminophenyl)-3-[[[4-(2-methyl-1H-imidazol-1-yl)phenyl]methoxy]methyl]piperazine
In a manner similar to Preparation 19, react 4-(3-aminophenyl)-2-piperazinemethanol with 1-[4-(chloromethyl)phenyl]-2-methyl-1H-imidazole to obtain the title compound.

reactant | 4-(3-aminophenyl)-2-piperazinemethanol | NC=1C=C(C=CC1)N1CC(NCC1)CO | C11H17N3O
reactant | 1-[4-(chloromethyl)phenyl]-2-methyl-1H-imidazole | ClCC1=CC=C(C=C1)N1C(=NC=C1)C | C11H11ClN2
product | 1-(3-Aminophenyl)-3-[[[4-(2-methyl-1H-imidazol-1-yl)phenyl]methoxy]methyl]piperazine | NC=1C=C(C=CC1)N1CC(NCC1)COCC1=CC=C(C=C1)N1C(=NC=C1)C | C22H27N5O
